US09290511B2
2,4-Dichloro-5-phenyl-thieno[2,3-d]pyrimidine (2 g, 7.112 mmol), morpholine (0.9294 g, 10.67 mmol) and triethylamine (1.454 g, 2.00 mL, 14.22 mmol) were combined in ethanol (23.7 g, 30 mL, 493 mmol) and heated to 50° C. for 1 hour. The reaction mixture was allowed to cool to room temperature. The solvent volume was reduced by half and the resulting precipitate filtered off and washed with water and dried in vacuo overnight at 40° C. to afford 4-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)morpholine as a white solid.

reactant | 2,4-Dichloro-5-phenyl-thieno[2,3-d]pyrimidine | 7.112 mmol, 2 g | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)Cl | C12H6Cl2N2S
reactant | morpholine | 10.67 mmol, 0.9294 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 14.22 mmol, 2.00 mL, 1.454 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 493 mmol, 30 mL, 23.7 g | C(C)O | C2H6O
product | 4-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)morpholine | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCOCC2 | C16H14ClN3OS
